** sch_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/top/tb_TDBuckTOP-IHP-CL_v7p1.sch
**.subckt tb_TDBuckTOP-IHP-CL_v7p1
VH VH GND {VH}
VVDIG VDIG GND {VDIG}
RDIV1 VOUT VCONTs 50e6 m=1
RDIV2 VCONTs net1 100e6 m=1
RDIV3 net1 GND 100e6 m=1
VDD_GD VDD_GD GND {VDD_GD}
L14 net3 net2 {L} m=1
C1 net2 VSS {C} m=1
V_Io net2 VOUT 0
.save i(v_io)
V_IL Vc net3 0
.save i(v_il)
R2 VOUT VSS {RL} m=1
XM3 Vc D1_N VSS VSS nfet_05v0 L={l_M2} W={w_M2} nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m={mult_M2}
XM4 Vc D1 VH VH pfet_05v0 L={l_M1} W={w_M1} nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m={mult_M1}
x1 VDIG VSS V_1s_buff DOUT V_1r_buff PD_vto1p1
x8 VCONTs VSS VDD V_1s V_2s Esm22_CMOSVCOlowG_v7p1_GF180-5V
x2 VCONTr VSS VDD V_1r V_2r Esm22_CMOSVCOlowG_v7p1_GF180-5V
C2 V_2r VSS 1f m=1
C3 V_2s VSS 1f m=1
X3 VDD_GD GND DOUT_buff D1 GD_schem
X5 VDD_GD GND DOUT_buffn D1_N GD_schem
x4 DOUT net4 VDIG VDIG VSS VSS gf180mcu_fd_sc_mcu9t5v0__inv_1
x6 net4 DOUT_buff VDIG VDIG VSS VSS gf180mcu_fd_sc_mcu9t5v0__inv_8
x7 DOUT net5 VDIG VDIG VSS VSS gf180mcu_fd_sc_mcu9t5v0__inv_1
x9 net5 DOUT_buffn VDIG VDIG VSS VSS gf180mcu_fd_sc_mcu9t5v0__inv_8
VDD_GD1 VCONTr GND {VCONTR}
x10 V_1s net6 VDIG VDIG VSS VSS gf180mcu_fd_sc_mcu9t5v0__inv_1
x11 net6 V_1s_buff VDIG VDIG VSS VSS gf180mcu_fd_sc_mcu9t5v0__inv_8
x12 V_1r net7 VDIG VDIG VSS VSS gf180mcu_fd_sc_mcu9t5v0__inv_1
x13 net7 V_1r_buff VDIG VDIG VSS VSS gf180mcu_fd_sc_mcu9t5v0__inv_8
**** begin user architecture code

.param VDIG = 5
.param VH = 5
.param VDD_GD = 5
.param VCONTR = 2.64
*LATEST TDBuckLOADS
*300mA
.param RL = 6
*270mA
*.param RL = 6.67
*240mA
*.param RL = 7.5
*210mA
*.param RL = 8.57
*180mA
*.param RL = 10
*150mA
*.param RL = 12
*120mA
*.param RL = 15
*60mA
*.param RL = 30
*30mA
*.param RL = 60
*15mA
*.param RL = 120
.save v(VOUT) v(D1) v(D1_N) v(DOUT) v(VCONTr) v(VCONTs) v(V_1r) v(V_1s) v(DOUT_buff) v(DOUT_buffn) v(vh) i(vh) v(vdd_gd) i(vdd_gd) i(v_res) v(VCONTs_OL) v(vcp) v(vcn) i(vldo_out) i(vvdig) i(vvdd)
*.save all
vvdd vdd 0 dc 5
vvss vss 0 0
*vvconts VCONTs 0 dc 0.61
*.option temp = 200
.ic v(VCONTs) = 2
.ic v(V_1s) = 2
.ic v(V_2s) = 4
.ic v(V_1r) = 5
.ic v(V_2r) = 0
.ic v(VOUT) = 2.5

.control
*tran 2n 1m
*tran 4n 250u
tran 100p 30u
*wrdata /foss/designs/TO202406_CMOSVCO_Esm22/xschem/data/dataVSENS_2xCMOSVCOnDFF_v1p1.txt v(V_1s) tran1.v(V_1s) tran2.v(V_1s) tran3.v(V_1s) tran4.v(V_1s) tran5.v(V_1s) tran6.v(V_1s) tran7.v(V_1s) tran8.v(V_1s) tran9.v(V_1s) tran10.v(V_1s) tran11.v(V_1s) tran12.v(V_1s) tran13.v(V_1s) tran14.v(V_1s) tran15.v(V_1s) tran16.v(V_1s) tran17.v(V_1s) tran18.v(V_1s) tran19.v(V_1s)
*wrdata /foss/designs/TO202406_CMOSVCO_Esm22/xschem/data/data_TDBuckTOP-CL_v5p3_RL60.txt tran.v(vh) tran.i(vh) tran.v(VOUT) tran.i(vldo_out) tran.v(vh_gd) tran.i(vh_gd) tran.i(vvdig) tran.i(vvdd)
plot v(VOUT)
plot v(v_res)
plot v(D1) v(D1_N)+5
plot v(DOUT)
plot v(V_1s)+5 v(V_1r)+10
plot v(VCONTr) v(VCONTs)
*plot v(VCONTs_OL)
.endc





*PMOS
.param mult_gd_p = 72
.param w_gd_p = 6.4u
.param l_gd_p = 0.5u
*NMOS
.param mult_gd_n = 72
.param w_gd_n = 2u
.param l_gd_n = 0.6u





.param temp=27
.param mult_M1 = 2000
.param w_M1 =10u
.param l_M1 = 0.5u


.param mult_M2 = 625
.param w_M2 =10u
.param l_M2 =0.6u

*PMOS
.param mult_gd_p = 72
.param w_gd_p = 6.4u
.param l_gd_p = 0.5u
*NMOS
.param mult_gd_n = 72
.param w_gd_n = 2u
.param l_gd_n = 0.6u






*.param L = 550n
*.param R = 16.7
*.param C = 640n
.param L = 220n
*.param L = 440n
*.param C = 1u
.param C = 150n
*.param C = 300n




.include /foss/pdks/gf180mcuD/libs.ref/gf180mcu_fd_sc_mcu9t5v0/spice/gf180mcu_fd_sc_mcu9t5v0.spice
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical

**** end user architecture code
**.ends

* expanding   symbol:  gf180_digital/PD/PD_vto1p1.sym # of pins=5
** sym_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/gf180_digital/PD/PD_vto1p1.sym
** sch_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/gf180_digital/PD/PD_vto1p1.sch
.subckt PD_vto1p1 VCC VSS VINS V_PWM VINR
*.iopin V_PWM
*.iopin VCC
*.iopin VSS
*.iopin VINS
*.iopin VINR
C2 VFE2 VSS 1f m=1
C1 VFE1 VSS 1f m=1
x1 V_N net1 V_PWM VCC VCC VSS VSS gf180mcu_fd_sc_mcu9t5v0__nor2_1
x3 VCC VSS VFE1 VINR net2 SPG_vto1p1
x2 VCC VSS VFE2 VINS net1 SPG_vto1p1
x4 net2 V_PWM V_N VCC VCC VSS VSS gf180mcu_fd_sc_mcu9t5v0__nor2_1
.ends


* expanding   symbol:  vco/Esm22_CMOSVCOlowG_v7p1_GF180-5V.sym # of pins=5
** sym_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/vco/Esm22_CMOSVCOlowG_v7p1_GF180-5V.sym
** sch_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/vco/Esm22_CMOSVCOlowG_v7p1_GF180-5V.sch
.subckt Esm22_CMOSVCOlowG_v7p1_GF180-5V VCONT VSS VDD V_1 V_2
*.ipin VCONT
*.iopin VDD
*.iopin VSS
*.opin V_1
*.opin V_2
x1 VDD VCONT V_1 V_5 VSS stage_v7p1_GF180-5V
x2 VDD VCONT V_2 V_1 VSS stage_v7p1_GF180-5V
x3 VDD VCONT V_3 V_2 VSS stage_v7p1_GF180-5V
x4 VDD VCONT V_4 V_3 VSS stage_v7p1_GF180-5V
x5 VDD VCONT V_5 V_4 VSS stage_v7p1_GF180-5V
.ends


* expanding   symbol:  pwr_stage/GD_schem.sym # of pins=4
** sym_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/pwr_stage/GD_schem.sym
** sch_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/pwr_stage/GD_schem.sch
.subckt GD_schem VP VN A Y
*.ipin A
*.iopin VP
*.iopin VN
*.opin Y
XM11 Y net1 VN VN nfet_05v0 L={l_gd_n} W={w_gd_n} nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m={mult_gd_n}
XM12 Y net1 VP VP pfet_05v0 L={l_gd_p} W={w_gd_p} nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m={mult_gd_p}
XM13 net1 A VN VN nfet_05v0 L={l_gd_n} W={w_gd_n} nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m={mult_gd_n}/4
XM14 net1 A VP VP pfet_05v0 L={l_gd_p} W={w_gd_p} nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m={mult_gd_p}/4
.ends


* expanding   symbol:  gf180_digital/SPG/SPG_vto1p1.sym # of pins=5
** sym_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/gf180_digital/SPG/SPG_vto1p1.sym
** sch_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/gf180_digital/SPG/SPG_vto1p1.sch
.subckt SPG_vto1p1 VDDd VSSd VFE VIN VRE
*.iopin VIN
*.iopin VFE
*.iopin VRE
*.iopin VDDd
*.iopin VSSd
x2 predly net2 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x3 vinn predly VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x4 dly8 net1 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x5 VIN vinn VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_2
x6 predly V_gatein VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_8
x1 dly7 dly8 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_8
x8 net2 dly8 VFE VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__and2_1
x7 net1 predly VRE VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__and2_1
x10 VDDd VSSd V_gatein dly7 large_delay_vto1p1
.ends


* expanding   symbol:  vco/stage_v7p1_GF180-5V.sym # of pins=5
** sym_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/vco/stage_v7p1_GF180-5V.sym
** sch_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/vco/stage_v7p1_GF180-5V.sch
.subckt stage_v7p1_GF180-5V VDD VCONT VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
*.ipin VCONT
XMN1 net4 net4 VSS VSS nfet_05v0 L=0.70u W=7u nf=7 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN2 net3 net4 VSS VSS nfet_05v0 L=0.70u W=7u nf=7 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN3 net2 net4 VSS VSS nfet_05v0 L=0.70u W=4u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN4 VOUT VIN net2 VSS nfet_05v0 L=5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP2 net3 net3 VDD VDD pfet_05v0 L=4u W=8u nf=8 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP3 net1 net3 VDD VDD pfet_05v0 L=4u W=5u nf=5 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP1 net4 VCONT VDD VDD pfet_05v0 L=7u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP4 VOUT VIN net1 VDD pfet_05v0 L=5u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP5 net4 VSS VDD VDD pfet_05v0 L=7u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  gf180_digital/large_delay/large_delay_vto1p1.sym # of pins=4
** sym_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/gf180_digital/large_delay/large_delay_vto1p1.sym
** sch_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/gf180_digital/large_delay/large_delay_vto1p1.sch
.subckt large_delay_vto1p1 VDDd VSSd VIN VOUT
*.iopin VIN
*.iopin VOUT
*.iopin VDDd
*.iopin VSSd
x1 VIN VOUT VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__dlyd_1
.ends

.GLOBAL GND
.end
